US07550598B2
(Z)-4-(dimethylamino)-N-(4-(2-(5-oxo-3-propyl-1H-pyrazol-4(5H)-ylidene)-1,2-dihydroquinolin-4-ylthio)phenyl)butanamide
The title compound was synthesized using (Z)-4-(4-(4-aminophenylthio)quinolin-2(1H)-ylidene)-3-propyl-1H-pyrazol-5(4H)-one and 4-(dimethylamino)butanoyl chloride in THF according to the procedure described in the synthesis of Example 26. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.70 (t, J=7.33 Hz, 3H) 1.27-1.38 (m, J=7.45, 7.45, 7.45, 7.45 Hz, 2H) 1.90-1.99 (m, 2H) 2.21 (m, 2H) 2.44-2.49 (m, 2H) 2.81 (d, J=4.80 Hz, 6H) 3.07-3.15 (m, 2H) 6.76 (s, 1H) 7.57 (t, J=7.96 Hz, 1H) 7.69 (d, J=8.34 Hz, 2H) 7.79-7.90 (m, 4H) 8.09 (d, J=8.34 Hz, 1H) 9.43 (s, 1H) 10.40 (s, 1H); ESI-MS: m/z calc'd for C27H31N5O2S 489.63. found 490.3 (M+H)+.

reactant | (Z)-4-(4-(4-aminophenylthio)quinolin-2(1H)-ylidene)-3-propyl-1H-pyrazol-5(4H)-one | NC1=CC=C(C=C1)SC1=C/C(/NC2=CC=CC=C12)=C/1\C(=NNC1=O)CCC | C21H20N4OS
reactant | 4-(dimethylamino)butanoyl chloride | CN(CCCC(=O)Cl)C | C6H12ClNO
solvent | THF | C1CCOC1 | C4H8O
product | (Z)-4-(dimethylamino)-N-(4-(2-(5-oxo-3-propyl-1H-pyrazol-4(5H)-ylidene)-1,2-dihydroquinolin-4-ylthio)phenyl)butanamide | CN(CCCC(=O)NC1=CC=C(C=C1)SC1=C/C(/NC2=CC=CC=C12)=C/1\C(=NNC1=O)CCC)C | C27H31N5O2S
